*
* Increased gb by 10x on 2/10/93
* Linear Technology LT1215 op amp model
* Written: 01-25-1993 04:46:22 Type: Bipolar pnp input, internal comp.
* Typical specs: 
* Vos=1.5E-04, Ib=4.2E-07, Ios=3.5E-08, GBP=2.3E+07Hz, Phase mar.= 35 deg, 
* SR(-)=3.0E+01V/us, SR(+)=2.9E+01V/us, Av= 116 dB, CMMR= 108 dB, 
* Vsat(+)=0.60V, Vsat(-)=0.01V, Isc=+/-50.0mA, Iq=%4750 uA.
* (input common mode clamp active)
* 
* Connections: + - V+V-O 
.SUBCKT LT1215 3 2 7 4 6 
* INPUT
RC1 4  80 2.307E+02
RC2 4  90 2.307E+02
Q1  80 102 10 QM1 
Q2  90 103 11 QM2 
RB1  2   102 1.000E+02
RB2  3   103 1.000E+02
DCM1 105 102 DM2 
DCM2 105 103 DM2 
VCMC 105 4   4.000E-01
C1  80 90 2.142E-11
RE1 10 12 1.730E+02
RE2 11 12 1.730E+02
IEE 7  12 9.008E-04
RE  12 0  2.220E+05
CE  12 0  1.579E-12
DCMR 12 112 DM2
VCMR 7 112 2
* INTERMEDIATE 
GCM 0  8  12 0  1.726E-08
GA  8  0  80 90 4.335E-03
R2  8  0  1.000E+05
C2  1  8  3.000E-11
GB  1  0  8  0  1.617E+03
* OUTPUT 
RO1 1  110 5.000E+00
RO2A 1  0  15.000E+00
RO2B 6  110 23.000E+00
EC  17 0  110 0  1   
D1  1  17 DM1 
D2  17 1  DM1 
D3  110 13 DM2 
D4  14 110 DM2 
D5  6  110 DM2 
D6  110 6  DM2 
VC  7  13 1.421E+00
VE  14 4  8.272E-01
IP  7  4  3.849E-03
DSUB 4  7  DM2 
* MODELS 
.MODEL QM1 PNP (IS=8.000E-16 BF=1.029E+03)
.MODEL QM2 PNP (IS=8.047E-16 BF=1.118E+03)
.MODEL DM1 D   (IS=9.187E-01)
.MODEL DM2 D   (IS=8.000E-16 BV=3.9600E+01)
.ENDS LT1215
*
* - - - - - * FINI LT1215 FAMILY * - - - - - * [OAMM VP02 6/26/90]
***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1993
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *